US07119113B2
2,7-Difluoro-9H-xanthene-9-carboxylic Acid (4-trifluoromethyl-oxazol-2-yl)-amide
The title compound, white solid, m.p. 259° C. and MS: m/e=397.1 (M+H+), is prepared in accordance with the general method of example 3c from 4-trifluoromethyl-oxazol-2-ylamine and 2,7-difluoro-9H-xanthene-9-carboxylic acid (CAS:[188028-26-4]).

reactant | 4-trifluoromethyl-oxazol-2-ylamine | FC(C=1N=C(OC1)N)(F)F | C4H3F3N2O
reactant | 2,7-difluoro-9H-xanthene-9-carboxylic acid | FC1=CC=2C(C3=CC(=CC=C3OC2C=C1)F)C(=O)O | C14H8F2O3
product | 2,7-Difluoro-9H-xanthene-9-carboxylic Acid (4-trifluoromethyl-oxazol-2-yl)-amide | FC(C=1N=C(OC1)NC(=O)C1C2=CC(=CC=C2OC=2C=CC(=CC12)F)F)(F)F | C18H9F5N2O3
